US07449477B2
7-Phenyl-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide carbamic acid t-butyl ester (1.44 g, 3.37 mmol) is dissolved in CH3OH (20 mL) and CH2Cl2 (20 mL) and HCl (37%, 5.0 mL) is added. After the mixture is stirred overnight, the mixture is concentrated and dried under high vacuum to give 1.34 g (100% yield) 7-phenyl-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide hydrochloride. Load the product onto ion exchange resin and elute with 1N NH3 in methanol and concentrate to dryness to give the free base.

reactant | 7-Phenyl-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide carbamic acid t-butyl ester | 3.37 mmol, 1.44 g | C(C)(C)(C)OC(N)=O.NCCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)C1=CC=CC=C1
reactant | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
reactant | HCl | 5.0 mL | Cl | ClH
solvent | CH3OH | 20 mL | CO | CH4O
product | 7-phenyl-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide hydrochloride | 1.34 g, 100% yield | Cl.NCCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)C1=CC=CC=C1 | InChI=1S/C17H17N3O2S.ClH/c18-7-9-20-23(21,22)17-11-14(13-4-2-1-3-5-13)10-15-12-19-8-6-16(15)17;/h1-6,8,10-12,20H,7,9,18H2;1H
